US07205408B2
(a) 2,4-Difluoro-benzoic acid, ethyl ester
A solution of 2,4-difluoro-benzoic acid (19.3 g) in dry ethanol (200 ml) was treated with gaseous hydrochloric acid for 0.25 hours, then heated to reflux for 4 hours. Evaporation gave a white solid (22.7 g, 100%).

reactant | 2,4-difluoro-benzoic acid | 19.3 g | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 2,4-Difluoro-benzoic acid, ethyl ester | 22.7 g, 100% | FC1=C(C(=O)OCC)C=CC(=C1)F | C9H8F2O2
